US08389523B2
11.68 g (63 mmol) of 3-amino-2-anilinopyridine was dissolved in ethanol (150 mL), and 12.07 g (69 mmol) of diethyl ketomalonate was added thereto. The mixture was heated to reflux for 4 hours while stirring. After confirming the completion of the reaction, the reaction solution was cooled to room temperature, and the solvent was distilled off under reduced pressure. The residue thus obtained was washed using diisopropyl ether, to obtain 10.74 g (yield: 58%) of ethyl 3-oxo-4-phenyl-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxylate as pale yellow crystals.

reactant | 3-amino-2-anilinopyridine | 63 mmol, 11.68 g | NC=1C(=NC=CC1)NC1=CC=CC=C1 | C11H11N3
reactant | diethyl ketomalonate | 69 mmol, 12.07 g | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | ethanol | 150 mL | C(C)O | C2H6O
product | ethyl 3-oxo-4-phenyl-3,4-dihydropyrido[2,3-b]pyrazine-2-carboxylate | 10.74 g, yield: 58% | O=C1C(=NC2=C(N1C1=CC=CC=C1)N=CC=C2)C(=O)OCC | C16H13N3O3
